US07411072B2
N-[2-(2-Methoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide (E/Z Mixture)
Following the procedures essentially as described in Example 219, below, and using 5-bromomethylene-2-methoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (E/Z mixture, 100 mg, 0.32 mmol) with 4-methanesulfonylaminophenylboronic acid (75 mg, 0.35 mmol) to give 35 mg (27%) of an E/Z mixture of the title compound. MS (ES) 406 (M+1), 404 (M−1). HPLC shows 53% of the E isomer and 44% of the Z isomer.

reactant | 5-bromomethylene-2-methoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.32 mmol, 100 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)OC)C=CC=C2 | C17H15BrO
reactant | 4-methanesulfonylaminophenylboronic acid | 0.35 mmol, 75 mg | CS(=O)(=O)NC1=CC=C(C=C1)B(O)O | C7H10BNO4S
product | N-[2-(2-Methoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide | COC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC3=C(C=CC=C3)NS(=O)(=O)C)C=C1 | C24H23NO3S
